US04802913
A mixture of 3-phenylphenol (5.00 g), methyl bromoacetate (3.1 ml) and potassium carbonate (8.1 g) in DMF was stirred at room temperature. After five hours, the reaction mixture was diluted with water (100 ml) and then extracted with ether. The combined organic layers were washed with aqueous sodium carbonate followed by brine and then dried, filtered and evaporated to give crude methyl (3-phenylphenoxy)acetate (7.2 g) as a pale yellow liquid, 1H NMR (CDCl3) delta 3.8 (3H, s), 4.7 (2H, s), 6.8-7.6 (9H, m) ppm.

reactant | 3-phenylphenol | 5.00 g | C1(=CC=CC=C1)C=1C=C(C=CC1)O | C12H10O
reactant | methyl bromoacetate | 3.1 ml | BrCC(=O)OC | C3H5BrO2
reactant | potassium carbonate | 8.1 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | CN(C)C=O | C3H7NO
solvent | water | 100 ml | O | H2O
product | methyl (3-phenylphenoxy)acetate | 7.2 g | C1(=CC=CC=C1)C=1C=C(OCC(=O)OC)C=CC1 | C15H14O3
